US07968746B2
Oxidation as described in protocol B, using 110 mg (0.344 mmol) of methyl 2-(6-hydroxy-2,5,7,8-tetramethylchroman-2-carboxamido)acetate and 415 mg CAN (0.757 mmol) yielded 94.0 mg of methyl 2-(2-hydroxy-2-methyl-4-(2,4,5-trimethyl-3,6-dioxocyclohexa-1,4-dienyl)butanamido)acetate as a yellow powder.

reactant | methyl 2-(6-hydroxy-2,5,7,8-tetramethylchroman-2-carboxamido)acetate | 0.344 mmol, 110 mg | OC=1C(=C2CCC(OC2=C(C1C)C)(C(=O)NCC(=O)OC)C)C | C17H23NO5
reactant | CAN | 0.757 mmol, 415 mg | O=[N+]([O-])[O-].[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[Ce+4].[NH4+].[NH4+]
product | methyl 2-(2-hydroxy-2-methyl-4-(2,4,5-trimethyl-3,6-dioxocyclohexa-1,4-dienyl)butanamido)acetate | 94.0 mg | OC(C(=O)NCC(=O)OC)(CCC1=C(C(C(=C(C1=O)C)C)=O)C)C | C17H23NO6
